US04359332
To a solution of butyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (7.9 g, 0.022 mole) in 200 ml. of ether was added slowly with good stirring allylamine (5.02 g, 0.088 mole) in 50 ml. of ether. The reaction was stirred overnight at room temperature, then was filtered, and the filtrate concentrated in vacuo. The residue was dissolved in ether, washed with water, dried over MgSO4, and concentrated in vacuo to yield butyl N-trifluoroacetyl-N-(bis(allylamino)phosphonomethyl)glycinate (6.8 g), ND =1.4624.

reactant | butyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.022 mole, 7.9 g | FC(C(=O)N(CC(=O)OCCCC)CP(=O)(OCl)OCl)(F)F | C9H13Cl2F3NO6P
reactant | allylamine | 0.088 mole, 5.02 g | C(C=C)N | C3H7N
solvent | ether | CCOCC | C4H10O
product | butyl N-trifluoroacetyl-N-(bis(allylamino)phosphonomethyl)glycinate | 6.8 g | FC(C(=O)N(CC(=O)OCCCC)CP(=O)(ONCC=C)ONCC=C)(F)F | C15H25F3N3O6P
